** sch_path: /home/cmaier/EDA/PUDDING/xschem/dacbuffer_2chan.sch
.subckt dacbuffer_2chan VDD C00 C01 C11 C10
*.PININFO VDD:B C00:B C01:B C10:B C11:B
x0 VDD C00 C01 dacbuffer_1chan
x1 VDD C10 C11 dacbuffer_1chan
.ends

* expanding   symbol:  dacbuffer_1chan.sym # of pins=3
** sym_path: /home/cmaier/EDA/PUDDING/xschem/dacbuffer_1chan.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/dacbuffer_1chan.sch
.subckt dacbuffer_1chan VDD C0 C1
*.PININFO VDD:B C0:B C1:B
M1 VDD C1 VDD VDD sg13_hv_pmos w=14.6u l=4.04u ng=1 m=1
M0 VDD C0 VDD VDD sg13_hv_pmos w=14.6u l=4.04u ng=1 m=1
.ends

